US04897109
A solution of 21.7 g of N-(4-trifluoromethylbenzyl)-N-isopropyl-amine is added while stirring in a 4 neck-flask with 20 ml of 20% sodium-hydroxide solution. The reaction-mixture is then cooled while stirring in an alcohol/CO2 -bath to a temperature of from -10° to -5° whereupon 14.7 g of dichloroacetyl chloride is added slowly, dropwise thereto. After about 1/2 hour, when everything is added, the cooling-bath is removed and the reaction mixture is stirred for 2 hours until it reaches room temperature. It is then poured into ice/water and the organic material is extracted with toluene. The toluene-phases are collected washed first with diluted sodium hydroxide, then with diluted hydrochloric acid and eventually twice with water, dried over sodium sulfate and concentrated in a rotatory evaporator. A clear oil is thus obtained, which becomes solid after a while. The solid mass is then triturated with hexane and filtered to yield 21.7 g of crystalline N-(4-trifluoromethylbenzyl)-N-isopropyl-dichloroacetamide, melting at 92° to 93°.

reactant | N-(4-trifluoromethylbenzyl)-N-isopropyl-amine | 21.7 g | FC(C1=CC=C(CNC(C)C)C=C1)(F)F | C11H14F3N
reactant | dichloroacetyl chloride | 14.7 g | ClC(C(=O)Cl)Cl | C2HCl3O
product | N-(4-trifluoromethylbenzyl)-N-isopropyl-dichloroacetamide | 21.7 g | FC(C1=CC=C(CN(C(C(Cl)Cl)=O)C(C)C)C=C1)(F)F | C13H14Cl2F3NO
